US07129290B2
3,9-Dibutyl-3,9-Diethyl-1,5,7,11-tetraoxaspiro[5.5]undecane
See also U.S. Pat. No. 5,808,108. In a three neck 500 mL RB flask equipped with a reflux condenser, a Dean-Stark trap and under nitrogen, 2-butyl-2-ethyl-1,3-propanediol (35.33 g, 0.22 mol) and toluene (350 mL) were added. The resulting mixture was heated to reflux for 2 h. The resulting solution was cooled to RT and 4-ethylbenzenesulfonic acid (0.35 g) and tetraethylorthocarbonate (21.3 g, 0.11 mol) were added. The reaction mixture was heated to reflux and the azeotropic solution collected in the Dean-Stark trap. The azeotropic mixture was measured and removed from the trap and poured into brine. The toluene phase was separated giving ˜22 mL of ethanol, via shaking with brine. TLC of the reaction mixture showed the complete conversion of the starting diol. To the cooled reaction mixture was added triethylamine (3.0 mL). The reaction mixture was then concentrated at reduced pressure (rotovap) and then dried under vacuum. This crude material was then fractionally vacuum distilled and the fraction boiling at 175–181° C. at 240 Pa and collected (24.72 g) as a water white clear liquid. 13C NMR (CDCl3): 4.59, 11.30, 20.72, 21.20, 22.29, 28.08, 31.78, 67.13, 112.20 (Corthocarbonate).

reactant | 2-butyl-2-ethyl-1,3-propanediol | 0.22 mol, 35.33 g | C(CCC)C(CO)(CO)CC | C9H20O2
reactant | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-ethylbenzenesulfonic acid | 0.35 g | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
reactant | tetraethylorthocarbonate | 0.11 mol, 21.3 g | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | brine | [Cl-].[Na+].O
solvent | triethylamine | 3.0 mL | C(C)N(CC)CC | C6H15N
product | 3,9-Dibutyl-3,9-Diethyl-1,5,7,11-tetraoxaspiro[5.5]undecane | C(CCC)C1(COC2(OC1)OCC(CO2)(CC)CCCC)CC | C19H36O4
